US07217697B2
To a suspension of 3-(β-D-glucopyranosyloxy)-4-(2-hydroxybenzyl)-5-isopropyl-1H-pyrazole (164 mg) and potassium carbonate (115 mg) in N,N-dimethylformamide (5 mL) was added 3-tert-butyldimethylsilyloxymethylbenzyl bromide (197 mg) at room temperature, and the mixture was stirred for 20 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1-10/1–5/1) to give 4-[2-(3-tert-butyldimethylsilyloxymethylbenzyloxy)benzyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole. To a solution of the obtained 4-[2-(3-tert-butyldimethylsilyloxymethylbenzyloxy)benzyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole in tetrahydrofuran (2 mL) was added tetra-(n-butyl)ammonium fluoride (1 mol/L tetrahydrofuran solution, 0.065 mL) at room temperature, and the mixture was stirred for 15 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (22 mg).

reactant | 3-(β-D-glucopyranosyloxy)-4-(2-hydroxybenzyl)-5-isopropyl-1H-pyrazole | 164 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=CC=C1)O)C(C)C | C19H26N2O7
reactant | potassium carbonate | 115 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-tert-butyldimethylsilyloxymethylbenzyl bromide | 197 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(CBr)C=CC1 | C14H23BrOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-(3-tert-butyldimethylsilyloxymethylbenzyloxy)benzyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC2=C(CC=3C(=NNC3C(C)C)O[C@H]3[C@H](O)[C@@H](O)[C@H](O)[C@H](O3)CO)C=CC=C2)C=CC1 | C33H48N2O8Si
